US04933458
In a mixture of 50 ml of acetone and 5 ml of water were suspended 2.80 g of 2-mercapto-3-methylquinoxaline, 3.28 g of 2-dimethylaminobenzyl chloride hydrochloride, and 8.0 g of potassium carbonate. The resulting mixture was stirred at room temperature for 40 min., and the solvent was removed under reduced pressure. The residue was extracted with chloroform after addition of chloroform and water. The organic layer was separated and dried over sodium sulfate. The sodium sulfate was removed by filtration, and the filtrate was placed under reduced pressure to remove the solvent. The residue was diluted with 50 ml of ethanol. To the solution under chilling with ice were successively added 1.33 ml of conc. hydrochloric acid and ether to precipitate crystals. The crystals were collected by filtration to give 4.56 of 2-(2-dimethylaminobenzylthio)-3-methylquinoxaline hydrochloride as a dark brown crystalline powder.

reactant | 2-mercapto-3-methylquinoxaline | 2.80 g | SC1=NC2=CC=CC=C2N=C1C | C9H8N2S
reactant | 2-dimethylaminobenzyl chloride hydrochloride | 3.28 g | Cl.CN(C1=C(CCl)C=CC=C1)C
reactant | potassium carbonate | 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 5 ml | O | H2O
product | 2-(2-dimethylaminobenzylthio)-3-methylquinoxaline hydrochloride | Cl.CN(C1=C(CSC2=NC3=CC=CC=C3N=C2C)C=CC=C1)C | InChI=1S/C18H19N3S.ClH/c1-13-18(20-16-10-6-5-9-15(16)19-13)22-12-14-8-4-7-11-17(14)21(2)3;/h4-11H,12H2,1-3H3;1H
